US04020076
26 g of ethoxycarbonyl isothiocyanate were added dropwise to a mixture of 0.4 ml of triethylamine, 15 g of normal butanol and 150 ml of tetrahydrofuran and the mixture was refluxed for 2 hours and concentrated to dryness by distillation under reduced pressure to obtain 39 g of raw n-butyl N-carbethoxy-thiocarbamate. The latter product was added to a mixture of 500 ml of methanol and 14 g of potassium methylate and the mixture was stirred for an hour and then concentrated to dryness under reduced pressure. The residue was added to ether and the precipitate formed was recovered by vacuum filtration and was dried to obtain 35 g of the potassium salt of n-butyl N-carbethoxy-thiocarbamate melting at 219° C.

reactant | ethoxycarbonyl isothiocyanate | 26 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | normal butanol | 15 g | C(CCC)O | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | n-butyl N-carbethoxy-thiocarbamate | 39 g | C(=O)(OCC)NC(OCCCC)=S | C8H15NO3S
